US04603145
N-[3,3-Bis(p-chlorophenyl)acryloyl]glycine
A mixture of 1.0 g. of ethyl N-[3,3-bis(p-chlorophenyl)acryloyl]glycinate, 106 mg. of sodium hydroxide, 18 ml. of ethanol, and 2 ml. of water is stirred under reflux for one hour, allowed to cool, diluted with 80 ml. of water, and acidified with 20 ml. of 1N hydrochloric acid. The solid is collected, dried in vacuo at 50° C., and then stirred with 50 ml. of dichloromethane and 50 ml. of water. The solid which fails to dissolve is collected and dried at 50° C., giving 150 mg. of the desired product as a white solid, m.p. 166°-168° C.

reactant | ethyl N-[3,3-bis(p-chlorophenyl)acryloyl]glycinate | ClC1=CC=C(C=C1)C(=CC(=O)NCC(=O)OCC)C1=CC=C(C=C1)Cl | C19H17Cl2NO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
product | N-[3,3-Bis(p-chlorophenyl)acryloyl]glycine | ClC1=CC=C(C=C1)C(=CC(=O)NCC(=O)O)C1=CC=C(C=C1)Cl | C17H13Cl2NO3
